Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
palpitation, lightheadedness, nausea and vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ with a history ___ PMH cardiac 
arrhythmia not fully worked up p/w n/v palpitation, pallor 
following cardio exercise. Pt reports that he was in his usual 
state health when he had an extra intense session at ___ 
___ with a lot of cardio, he started having palpitations, 
nausea, lightheadedness, and irregular heartbeat. He felts 
pressure on his chest, and later vomited. He had experienced a 
similar episode in ___ when he was visiting ___. 
During that episode, he got very dehydrated from vomiting due to 
motion sickness from travel. He was assessed by a nurse and 
noted to have an irregular heartbeat. He had presented to the ED 
and was diagnosed with an arrhythmia that he cannot recall ad 
advised to follow up with cardiology. Was also told he was 
hypomagnesemic.

Upon further review, pt has had these episodes as far back as 
high school. Some specific events include fainting after 
swimming, once. This episode was associated with nausea and 
vomiting. Another incident in college when he started jogging 
with a heart rate monitor and his heart rate very quickly rose 
to 200s. Pt reports that he always knew that he had a low 
tolerance for cardio exercise, reporting symptoms of 
palpitation, lightheadedness, nausea, vomiting, pallor, 
shortness of breath, and lips turning blue. 

Pt has no diagnosed bleeding disorder, however reports that 
growing up he has chronic nosebleeds that responded to 
silvernitrate treatment. Had to go to the ED once for nosebleed 
and required IVF, no transfusion. Also reports extensive 
bleeding with wisdom teeth extraction, required to go back and 
get stitches redone.

Pt denies any LOC, frank CP. No recent fevers, chills, night 
sweat, unintentional weight loss. No diarrhea/ constipation, 
pain with urination. 
 
In the ED, initial vitals: 98.0, 124/85, 115, 18, 100% RA
- Labs were significant for Trop-T: <0.01, Ca ___, Mg 2.0, P 
1.1, WBC 16.4 (85.9% N), UA notable for protein 30, Ketone 40, 
and few bacteria.
- Imaging showed CXR no acute intrathoracic abnormality. 
- In the ED, s/he received Acetaminophen, Sodium Phosphate, 
Ondansetron
-Cardiology saw pt and not concerned about the low atrial 
rhythm,
which is quite common in pts without evident underlying heart 
disease.  Are concerned about the hx of syncope and dizziness 
and would like further workup as inpatient.

- Vitals prior to transfer:  98.0, 124/85, 115, 18, 100%RA

Upon arrival to the floor, 98.5, 105/70, 81, 16, 100 RA. He 
reports having a ___ headache, similar to his headaches from 
sleep deprivation and muscle spasm from herniated carnival disc. 
He also endorse tingling in his L fingers and slight weakness in 
his L hand and arm. He also feels very drowsy, reports only 1hr 
of sleep overnight.

 
Past Medical History:
Cardiac Arrhythmia
Low back pain 
Herniated Cervical disc
Vitreous floater, left 
Myopia of both eyes
Chronic nosebleed as a child s/p silver nitrate treatment

 
Social History:
___
Family History:
Father died at ___ from non-Hodgkin's lymphoma and Ewing's 
scarcoma
Two bother alive and healthy
daughter is healthy
Mother- alive, presumed healthy
Paternal grandmother died of colon cancer
No family history of sudden death, childhood death, bleeding 
disorder 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITAL SIGNS -  98.0 | 125/85 | 70 | 18 | 98% RA
GENERAL - NAD, sitting in bed, very healthy/fit
HEENT - PERRL, EOMI, anicteric, mucous membrane moist and pink
NECK - no LAD, JVP 4cm at 70 deg. No carotoid bruits
CARDIAC - regular rate and rhythm ectopic beats at every ___ 
heart beat, normal S1/S2 no murmurs. No audible murmur with fist 
clenching
LUNGS - CTAB
ABDOMEN - normal bowel sounds, soft, nondistended, nontender to 
light palpation. Slight epigastric discomfort to deep palpation. 
No hepatosplenomegaly. 
EXTREMITIES - ___ strength in all extremities, normal sensation 
in ___. 2+ patellar reflex. Decreased bicep reflex on L arm, 
sensation intact. 4cm round erythematous lesion on the L shin. 
NEUROLOGIC - A&Ox3, normal finger to nose, rapid alternating 
hand movements, CN II-XII intact. 
SKIN - no rashes
PSYCHIATRIC - well educated, medically literate

DISCHARGE PHYSICAL EXAM:
PHYSICAL EXAM:  
VITAL SIGNS -  97.9 | ___ | ___ | 18 | 97-99% RA
GENERAL - NAD, sitting in bed, very healthy/fit
HEENT - PERRL, EOMI, anicteric, mucous membrane moist and pink
NECK - no LAD, JVP 4cm at 70 deg. No carotoid bruits
CARDIAC -regular rate and rhythm ectopic beats at every ___ 
heart beat, normal S1/S2 no murmurs. No audible murmur with fist 
clenching
LUNGS - CTAB
ABDOMEN - normal bowel sounds, soft, nondistended, nontender to 
light palpation. Slight epigastric discomfort to deep palpation. 
No hepatosplenomegaly. 
EXTREMITIES - ___ strength in all extremities, normal sensation 
in ___. 2+ patellar reflex. Decreased bicep reflex on L arm, 
sensation intact. 4cm round erythematous lesion on the L shin, 
stable 
NEUROLOGIC - A&Ox3, normal finger to nose, rapid alternating 
hand movements, CN II-XII intact. 
SKIN - no rashes
PSYCHIATRIC - well educated, medically literate  

 
Pertinent Results:
On Admission
___ 12:25AM BLOOD WBC-16.4* RBC-4.98 Hgb-15.0 Hct-40.7 
MCV-82 MCH-30.1 MCHC-36.9 RDW-12.6 RDWSD-37.2 Plt ___
___ 12:25AM BLOOD Neuts-85.9* Lymphs-9.6* Monos-4.0* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-14.10* AbsLymp-1.57 
AbsMono-0.65 AbsEos-0.00* AbsBaso-0.02
___ 12:25AM BLOOD Glucose-130* UreaN-23* Creat-1.1 Na-141 
K-3.4 Cl-102 HCO3-21* AnGap-21*
___ 12:25AM BLOOD ALT-15 AST-24 AlkPhos-54 TotBili-1.1
___ 12:25AM BLOOD Lipase-49
___ 12:25AM BLOOD cTropnT-<0.01
___ 06:00AM BLOOD cTropnT-<0.01
___ 12:25AM BLOOD Albumin-4.8 Calcium-10.6* Phos-1.1* 
Mg-2.0
___ 03:30AM URINE Color-Straw Appear-Clear Sp ___
___ 03:30AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 03:30AM URINE RBC-3* WBC-1 Bacteri-FEW Yeast-NONE Epi-0
___ 03:30AM URINE CastGr-3* CastHy-12*
___ 03:30AM URINE Mucous-RARE

On Discharge
___ 06:25AM BLOOD WBC-8.2 RBC-4.66 Hgb-13.5* Hct-40.8 
MCV-88 MCH-29.0 MCHC-33.1# RDW-13.2 RDWSD-41.1 Plt ___
___ 06:25AM BLOOD Glucose-84 UreaN-11 Creat-0.8 Na-143 
K-3.7 Cl-106 HCO3-23 AnGap-18
___ 06:25AM BLOOD Calcium-9.0 Phos-3.4 Mg-2.1

Imaging
Echocargiogram (___):
IMPRESSION
The left atrial volume index is mildly increased. No atrial 
septal defect is seen by 2D or color Doppler. Left ventricular 
wall thickness, cavity size and regional/global systolic 
function are normal (LVEF = 60%). Tissue Doppler imaging 
suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion.

Microbiology
Urine Culture (___): < 10,000 CFU/mL

 
Brief Hospital Course:
___ y/o healthy male who presented to ___ after developing 
palpitations, nausea and lightheadedness after an intense 
exercise routine. 

#Light-headedness
#Palpitations
EKG on admission was notable for transient low atrial rhythm. 
Patient was seen by cardiology in the ED, who did not feel that 
this was concerning. Patient was monitored on telemetry 
overnight, which was notable for a 1-minute interval with 
increased number of PVCs with inverted P-waves. Patient was 
otherwise asymptomatic during this. Patient's symptoms were felt 
to be likely neurocardiogenic given history of vasovagal 
reactions to other stimuli such as blood. Per cardiology 
recommendations, patient received a TTE during this 
hospitalization, and read was pending at discharge. Patient was 
discharged with a plan to f/u with his PCP, during which time he 
should be scheduled for an ETT and 21 day loop monitor.

#Leukocytosis w/ PMN: Patient had a WBC count of 16.4 on 
admission without infectious symptoms that decreased to 8.2 
without antibiotics, felt to be ___ strenuous exercise

#Nausea/Vomiting: Likely related to exercise. However, mild 
concussion was also possible given the nature of his exercise. 
Pt was given Zofran prn for nausea and his symptoms improved 
over the course of his hospitalization.

#Hypophosphatemia: Likely related to recent exercise. Patient 
responded well to phosphate repletion, and phosphate was normal 
at the time of discharge.

#Hypercalcemia: Likely ___ exercise. Resolved with fluids. 

#Microscopic Hematuria: 
#Proteinuria: 
Patient's UA was notable for protein of 30, 3 RBCs and 12 
hyaline casts, which were thought to be related to recent 
strenuous exercise. He was discharged with a plan for repeat UA 
as an outpatient.

CHRONIC ISSUES
-herniated disc at cervical level: continue home 
cyclobenzaprine, acetaminophen prn for pain

============================================================
Transitional Issues:
-f/u with PCP this week
-___ will need exercise treadmill test and 21 day loop 
recorder
-Please repeat UA at next PCP visit to ensure that RBCs, protein 
and casts are not persistent
-Recheck full electrolyte panel
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Influenza Vaccine Quadrivalent 0.5 mL IM NOW X1 
Start: ___, First Dose: Next Routine Administration Time 
2. Cyclobenzaprine 10 mg PO HS:PRN muscle spasm 
3. Multivitamins W/minerals 1 TAB PO DAILY 
4. Acetaminophen 650 mg PO DAILY:PRN Pain - Mild 
5. Ibuprofen 400 mg PO DAILY:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO DAILY:PRN Pain - Mild  
2.  Cyclobenzaprine 10 mg PO HS:PRN muscle spasm  
3.  Ibuprofen 400 mg PO DAILY:PRN Pain - Mild  
4.  Multivitamins W/minerals 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
-Palpitations

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ ___ ___ 
because:
-You were nauseous and had heart palpitations

What we did for you:
-We monitored your heart rhythm on a cardiac monitor

What we think is the cause of your symptoms:
-This may be something called vasovagal syncope, which is your 
body's reaction to certain triggers such as stress. However, 
there is a possibility that you may have an abnormal heart beat 
or an abnormality in your heart's structure.

What you should do next:
-You should call your PCP this week to talk about getting an 
exercise stress test and a temporary heart monitor. Please 
refrain from intense physical activity until you follow up with 
your doctor.

It was a pleasure to help care for you during this 
hospitalization.

Sincerely,
Your ___ Team
 
Followup Instructions:
___